US05462940
A solution of 1-amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione, hydrochloride (0.0094 mole), dimethylformamide (75 ml) and 5-(4-chlorophenyl)-2-furancarbox aldehyde [prepared as described in U.S. Pat. No. 4,882,354, to Huang et al., assigned to Norwich Eaton Pharmaceuticals, Inc., issued Nov. 21, 1984; see Cols. 7 and 8 hereby incorporated by reference herein] (1.94 g, 0.0094 mole) is stirred at ambient temperature for 72 hours. The mixture is filtered, collecting the solid. Recrystallization from absolute ethanol/H2O and air-drying gives 2.63 g (0.0050 mole) of 1-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]3-[4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione dihydrochloride.

reactant | 1-amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione, hydrochloride | 0.0094 mole | Cl.NN1C(N(C(C1)=O)CCCCN1CCN(CC1)C)=O
reactant | 5-(4-chlorophenyl)-2-furancarbox aldehyde | ClC1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7ClO2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2,4-imidazolidinedione dihydrochloride | Cl.Cl.N1C(NC(C1)=O)=O | InChI=1S/C3H4N2O2.2ClH/c6-2-1-4-3(7)5-2;;/h1H2,(H2,4,5,6,7);2*1H
